2186-05-11 11:15:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo women with alzheimer's, AXO times [**1-28**] at baseline, SSS with PPM.
   Recently admitted for PNA,
   ARF, transaminitis, pancreatitis, and derlium.  Was sent to rehab day
   before yestderday.  Found to be hypoxemia at rehab to 70s, and sent to
   ED.  T 95.4 in ED, HR 65, BP 92/54, 100% NRB, 99%, got
   vanco/levo/zosyn.  Got 3L NS for BP in low 90s in ED.  Tranferred to
   MICU.
   24 Hour Events:
   Allergies:
   Heparin Agents
   Hypersensitivit
   Last dose of Antibiotics:
   Ciprofloxacin - [**2186-5-11**] 06:13 AM
   Vancomycin - [**2186-5-11**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2186-5-11**] 09:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2186-5-11**] 03:05 AM
   Dextrose 50% - [**2186-5-11**] 03:47 AM
   Other medications:
   Changes to medical and family history:
   PMHX:
   SSS with PPM
   dementia
   hyperlipidemia
   Meds
   Nifedipine protonix
   ShX:  no tobacco ETOH, or drug us
   FHX: Non-contributory for PNA
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-5-11**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 73 (63 - 73) bpm
   BP: 113/52(67) {98/44(59) - 123/59(73)} mmHg
   RR: 33 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,800 mL
                                                                    659 mL
   PO:
             TF:
   IVF:
   634 mL
   Blood products:
   Total out:
                                                                     85 mL
                                                                    820 mL
   Urine:
                                                                     85 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,715 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed,
   somnolent
   Labs / Radiology
   7.8 g/dL
   341 K/uL
   46 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.2 mEq/L
   13 mg/dL
   104 mEq/L
   139 mEq/L
   25.2 %
   5.4 K/uL
        [image002.jpg]
                             [**2186-5-11**]  02:10 AM
   WBC
   5.4
   Hct
   25.2
   Plt
   341
   Cr
   0.9
   TropT
   <0.01
   Glucose
   46
   Other labs: CK / CKMB / Troponin-T:58//<0.01, ALT / AST:36/35, Alk Phos
   / T Bili:201/0.6, Amylase / Lipase:/137, Differential-Neuts:79.8 %,
   Lymph:13.9 %, Mono:4.6 %, Eos:1.6 %, Lactic Acid:0.8 mmol/L, LDH:264
   IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: U/A negative
   BNP 1031
   Assessment and Plan
   Hypoxemia:  CXR looks more like pulmonary edema rather than PNA.   No
   focal infiltrates, and WBC is no elevated.     Will stop antibiotics
   and continue lasix duresis.  If does not improve with diuresis,
   consider CTPA to r/o PE.
   acute on chronic diastolic CHF:  continue diuresis, recheck echo
   today.
   HOTN:  doubt sepsis.  More related to when she is sleeping.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-5-10**] 10:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2186-05-12 13:30:00 Physician Attending Progress Note
Chief Complaint: hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo women with severe diastolic CHF, RHF.  admitted with hypoxemia.
   Improved overnight with diuresis.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2186-5-11**] 03:00 PM
   Allergies:
   Heparin Agents
   Hypersensitivit
   Last dose of Antibiotics:
   Ciprofloxacin - [**2186-5-11**] 06:13 AM
   Vancomycin - [**2186-5-11**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2186-5-11**] 09:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2186-5-11**] 04:15 PM
   Other medications:
   atrovent
   albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2186-5-12**] 01:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.5
C (95.9
   HR: 69 (69 - 84) bpm
   BP: 132/52(70) {104/41(53) - 153/79(89)} mmHg
   RR: 25 (13 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    696 mL
                  PO:
                  TF:
   IVF:
                                                                    646 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,130 mL
   Urine:
                                                                  2,800 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,105 mL
                                                                 -1,130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): to self only, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   391 K/uL
   49 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.7 mEq/L
   9 mg/dL
   101 mEq/L
   139 mEq/L
   25.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2186-5-11**]  02:10 AM
                             [**2186-5-11**]  12:04 PM
                             [**2186-5-12**]  04:26 AM
   WBC
   5.4
   7.3
   Hct
   25.2
   25.7
   Plt
   341
   391
   Cr
   0.9
   1.0
   TropT
   <0.01
   <0.01
   Glucose
   46
   49
   Other labs: PT / PTT / INR:12.9/36.8/1.1, CK / CKMB /
   Troponin-T:53//<0.01, ALT / AST:35/33, Alk Phos / T Bili:229/0.6,
   Amylase / Lipase:/119, Differential-Neuts:79.8 %, Lymph:13.9 %,
   Mono:4.6 %, Eos:1.6 %, Lactic Acid:0.8 mmol/L, Albumin:2.5 g/dL,
   LDH:285 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 PULMONARY EDEMA:  improved respiratory status.  Now autodiuresing.
   continue diuresis
   acute on chronic diastolic HF with RV failure.
   hypoglycemia - unclear cause. Check FSBG
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-5-10**] 10:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 35 minutes